US08258134B2
A mixture of 3-chloro-6-phenoxy-pyridazine (1.01 g, 4.89 mmol) and sodium acetate (1.40 g, 17.06 mmol) in glacial acetic acid (50 mL, 0.1M) was heated to 110° C. overnight. After this time the reaction was cooled to 25° C. and was diluted with water (450 mL). The reaction was brought to pH=5-6 by the addition of a 5N aqueous sodium hydroxide solution. The resulting solution was extracted with ethyl acetate (3×100 mL). The combined organics were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, rinsed with ethyl acetate and concentrated in vacuo. The resulting oil was azeotroped with methanol four times and dried in vacuo to afford 6-phenoxy-2H-pyridazin-3-one (0.78 g, 86%) as a white solid. 1H-NMR (300 MHz, DMSO-d6) δ ppm 7.00 (d, J=10.0 Hz, 1H), 7.13-7.27 (m, 3H), 7.34-7.46 (m, 3H), 12.29 (br s, 1H).

reactant | 3-chloro-6-phenoxy-pyridazine | 4.89 mmol, 1.01 g | ClC=1N=NC(=CC1)OC1=CC=CC=C1 | C10H7ClN2O
reactant | sodium acetate | 17.06 mmol, 1.40 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | acetic acid | 0.1M, 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 450 mL | O | H2O
product | 6-phenoxy-2H-pyridazin-3-one | 0.78 g, 86% | O(C1=CC=CC=C1)C=1C=CC(NN1)=O | C10H8N2O2
